US08022192B2
To a solution of 1-acetyl-4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (2.68 g) in methanol (27 mL) was added sodium bicarbonate (0.596 g) under stirring at room temperature. The reaction mixture was stirred at room temperature for 17 hours. After confirming the completion of the reaction, water was added to the reaction mixture in order to precipitate the crystals. The crystals were collected by filtration, and the obtained crystals were washed with water and dried under reduced pressure to give 4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (2.45 g).

reactant | 1-acetyl-4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 2.68 g | C(C)(=O)N1N=C(C(=C1C(C)C)CC1=CC=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C41H60N2O11
reactant | sodium bicarbonate | 0.596 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | methanol | 27 mL | CO | CH4O
product | 4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 2.45 g | C(C1=CC=CC=C1)C=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C39H58N2O10
